US04772714
0.97 mmol of (1-phenylethenyl)oxytrimethylsilane was placed in a 20-ml flask, followed by the addition of 3 ml of pyridine as a solvent. 1.3 mmol of benzenediazonium tetrafluoroborate was added to the flask. The resulting mixture was stirred at 0° C. in a nitrogen atmosphere for 2 hours. The reaction mixture was diluted with diethyl ether and washed with 1.5N hydrochloric acid, water and a saturated aqueous solution of a common salt, successively. The organic phase was dried over magnesium sulfate and distilled under a reduced pressure to remove the solvent. The obtained oily mixture was subjected to silica gel thin-layer chromatography to obtain 0.68 mmol of benzyl phenyl ketone.

reactant | (1-phenylethenyl)oxytrimethylsilane | 0.97 mmol | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | benzenediazonium tetrafluoroborate | 1.3 mmol | F[B-](F)(F)F.C1(=CC=CC=C1)[N+]#N
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | benzyl phenyl ketone | 0.68 mmol | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
